US05034015
1st stage: Preparation of 6-benzyloxy-1-methylindole
To 125 g of caustic soda in pellets in 125 ml water are added 300 ml toluene, 50 ml methylsulphate and 7.36 g tetrabutylammonium hydrogensulphate, then, with stirring, 0.33 mole (73.6 g) 6-benzyloxyindole. Stirring is maintained for 15 minutes after the end of the evolution of heat. The reaction medium is diluted with two volumes of water. After separation of the organic phase the aqueous phase is extracted with toluene. After washing the organic phases with water and drying them, the desired product is obtained by evaporation. It melts at 79° C.

reactant | caustic soda | 125 g | [OH-].[Na+]
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | methylsulphate | 50 ml | COS(=O)(=O)[O-]
reactant | 6-benzyloxyindole | 0.33 mole, 73.6 g | C(C1=CC=CC=C1)OC1=CC=C2C=CNC2=C1 | C15H13NO
solvent | water | 125 ml | O | H2O
catalyst | tetrabutylammonium hydrogensulphate | 7.36 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-benzyloxy-1-methylindole | C(C1=CC=CC=C1)OC1=CC=C2C=CN(C2=C1)C | C16H15NO
